US04619937
A solution of 0.15 g (0.0007 mol)octahydro-4Hpyrrolo [3,2,1-ij]quinoline-2,4(1H)-dione (6aα, 9aα, 9bα) in 1 ml of water is treated with 0.7 ml of 1N sodium hydroxide solution. The solution is stirred one hour and is passed over a 2 g Dowex-H+ column. The eluate is concentrated at reduced pressure and the solid is recrystallized from ethanol to yield crystalline octahydro-2-oxo-1H-indole-7-propanoic acid (3aα, 7β, 7aα) with a melting point of 180°-181° C.

reactant | octahydro-4Hpyrrolo [3,2,1-ij]quinoline-2,4(1H)-dione | 0.0007 mol, 0.15 g | C1C(N2C(CCC3CCCC1C23)=O)=O | C11H15NO2
reactant | sodium hydroxide | 1N, 0.7 ml | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | octahydro-2-oxo-1H-indole-7-propanoic acid | O=C1NC2C(CCCC2C1)CCC(=O)O | C11H17NO3
